US09126931B2
8-Methoxy-10,10-dimethyl-5,10-dihydro-11-oxa-4-aza-benzo[b]fluorene
To the mixture of 7-methoxy-3-[3-(4-methoxy-benzyloxy)-pyridin-2-yl]-1,1-dimethyl-3,4-dihydro-1H-naphthalen-2-one (Compound GT15-2, 21 mg) and ethyl acetate (0.8 ml), sulfuric acid (0.2 ml) was added. The mixture was stirred and heated at 70° C. for 5 hrs. After cooling, the reaction mixture was neutralized with 2 N aqueous solution of sodium hydroxide. The mixture was diluted with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium bicarbonate and saturated brine, and then concentrated under reduced pressure. The resulting residues were purified by silica gel column (ethyl acetate/hexane) to obtain the title compound (7 mg, 50%).

reactant | 7-methoxy-3-[3-(4-methoxy-benzyloxy)-pyridin-2-yl]-1,1-dimethyl-3,4-dihydro-1H-naphthalen-2-one | 21 mg | COC1=CC=C2CC(C(C(C2=C1)(C)C)=O)C1=NC=CC=C1OCC1=CC=C(C=C1)OC | C26H27NO4
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.8 ml | C(C)(=O)OCC | C4H8O2
product | 8-Methoxy-10,10-dimethyl-5,10-dihydro-11-oxa-4-aza-benzo[b]fluorene | 7 mg, 50% | COC=1C=CC2=C(C(C=3OC=4C=CC=NC4C3C2)(C)C)C1 | C18H17NO2
